US05654467
b) (S)-N-Benzyloxycarbonyl-2-(4-ethoxybenzyl)-2-aminoethanol
31.80 g (848.4 mmol) of sodium borohydride is added to a solution of 221.41 g (605.9 mmol) of (S)-N-benzyloxycarbonyl-O-ethyltyrosine methyl ester in 1.5 l of tetrahydrofuran at room temperature. 270 ml of methanol is instilled in it with stirring within 2 hours. Then, the tetrahydrofuran is distilled off in a vacuum, the residue is taken up in 1 l of water and extracted three times with 700 ml of ethyl acetate. The combined organic phase is washed with water, dried with sodium sulfate and concentrated. It is recrystallized from ethyl acetate/hexane.

reactant | sodium borohydride | 848.4 mmol, 31.80 g | [BH4-].[Na+]
reactant | (S)-N-benzyloxycarbonyl-O-ethyltyrosine methyl ester | 605.9 mmol, 221.41 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC)=O | C20H23NO5
reactant | methanol | 270 ml | CO | CH4O
solvent | tetrahydrofuran | 1.5 l | O1CCCC1 | C4H8O
product | (S)-N-Benzyloxycarbonyl-2-(4-ethoxybenzyl)-2-aminoethanol | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)CC1=CC=C(C=C1)OCC | C19H23NO4
